US09382188B2
H) (5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)methanol
To a solution of 6-((tert-butyldiphenylsilyloxy)methyl)-3-(2-fluoro-5-methoxyphenyl)-2-neopentylpyridine (10.0 g) in THF (50 mL) was added a 1.0 M solution of tetrabutylammonium fluoride in THF (55.0 mL), and the mixture was stirred at room temperature for 2 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/petroleum ether) to give the title compound (3.00 g) as a white amorphous solid.

reactant | 6-((tert-butyldiphenylsilyloxy)methyl)-3-(2-fluoro-5-methoxyphenyl)-2-neopentylpyridine | 10.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=CC=C(C(=N1)CC(C)(C)C)C1=C(C=CC(=C1)OC)F | C34H40FNO2Si
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 55.0 mL | C1CCOC1 | C4H8O
product | (5-(2-fluoro-5-methoxyphenyl)-6-neopentylpyridin-2-yl)methanol | 3.00 g | FC1=C(C=C(C=C1)OC)C=1C=CC(=NC1CC(C)(C)C)CO | C18H22FNO2
